US08476434B2
Synthesis of 3-Amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide
To a solution of 4-methyl-3-nitro-benzoyl chloride (2.00 g, 0.010 mol) in THF (30 mL), in a water bath-cooled 100 mL round bottom flask, was added 3-isopropyl-phenylamine (1.35 g, 0.010 mol) dropwise. The reaction was allowed to stir at room temperature for 1 hour before being concentrated. The mixture was taken up in EtOAc and washed with NaHCO3 (aq., conc.) and then brine. The solution was dried over MgSO4, filtered, and concentrated to yield the title compound as an orange oil that solidifies upon standing. MS m/z 299=[M+H]+. Calc'd for C17H18N2O3: 298.34.

reactant | 4-methyl-3-nitro-benzoyl chloride | 0.010 mol, 2.00 g | CC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | water | O | H2O
reactant | 3-isopropyl-phenylamine | 0.010 mol, 1.35 g | C(C)(C)C=1C=C(C=CC1)N | C9H13N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C17H20N2O
